US04649146
A solution of 2-amino-4-methyl-5-(2-bromoacetyl)thiazole hydrobromide (7.2 g), 2-aminopyrimidine (3.8 g) and triethylamine (11 ml) in ethanol (200 ml) was refluxed for 8 hours and the reaction mixture was evaporated in vacuo. To the residue was added water and the resulting mixture was acidified to pH 1.0 with 10% hydrochloric acid. The acidified solution was treated with charcoal and filtered. The filtrate was adjusted to pH 7.0 with 20% aqueous potassium carbonate. The resulting precipitate was collected by filtration, washed successively with water and ethyl acetate, and recrystallized from aqueous ethanol to give 2-(2-amino-4-methyl-5-thiazolyl)imidazo[1,2-a]pyrimidine (0.8 g). mp 285°-286° C. (dec.)

reactant | 2-amino-4-methyl-5-(2-bromoacetyl)thiazole hydrobromide | 7.2 g | Br.NC=1SC(=C(N1)C)C(CBr)=O
reactant | 2-aminopyrimidine | 3.8 g | NC1=NC=CC=N1 | C4H5N3
reactant | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(2-amino-4-methyl-5-thiazolyl)imidazo[1,2-a]pyrimidine | 0.8 g | NC=1SC(=C(N1)C)C=1N=C2N(C=CC=N2)C1 | C10H9N5S
